US08802688B2
Step 2: 2-(3-(2-tert-butyl-7-oxo-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)quinolin-6-yloxy)acetic acid
Hydrochloric acid (10 mL, 40 mmol, 4 M in 1,4-dioxane) was added to tert-butyl 2-(3-(2-tert-butyl-7-oxo-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)quinolin-6-yloxy)acetate (470 mg, 0.860 mmol). The reaction was stirred vigorously at room temperature for 1 hour. The reaction was concentrated. The residue was coevaporated with ethyl acetate and heptanes several times, and then dried under vacuum to provide the title compound (422 mg, 100%). +ESI (M+H) 491.4; 1H NMR (400 MHz, DMSO-d6, δ): 8.76 (d, J=2.0 Hz, 1 H), 8.35 (d, J=1.4 Hz, 1 H), 7.98 (d, J=9.2 Hz, 1 H), 7.81 (s, 1 H), 7.52 (dd, J=9.3, 2.8 Hz, 1 H), 7.42 (d, J=2.9 Hz, 1 H), 4.82 (s, 2 H), 3.57-3.73 (m, 2H), 3.34-3.50 (m, 2 H), 2.77 (s, 2 H), 2.56 (s, 2 H), 1.50 (s, 9 H), 1.44-1.58 (m, 4 H).

reactant | Hydrochloric acid | 40 mmol, 4 M, 10 mL | Cl | ClH
reactant | tert-butyl 2-(3-(2-tert-butyl-7-oxo-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)quinolin-6-yloxy)acetate | 0.860 mmol, 470 mg | C(C)(C)(C)N1N=C2C(CC3(CCN(CC3)C(=O)C=3C=NC4=CC=C(C=C4C3)OCC(=O)OC(C)(C)C)CC2=C1)=O | C31H38N4O5
product | 2-(3-(2-tert-butyl-7-oxo-2,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)quinolin-6-yloxy)acetic acid | 422 mg, 100% | C(C)(C)(C)N1N=C2C(CC3(CCN(CC3)C(=O)C=3C=NC4=CC=C(C=C4C3)OCC(=O)O)CC2=C1)=O | C27H30N4O5
